US05990144
N-[2-(1-Methyl-2-{2,2,2-Trifluoroacetamidyl}-3-nitro-phenoxy)-ethyl]-N-benzyl-2,2,2-trifluoro-acetamide
A suspension of potassium carbonate (1.44 g, 10.4 mmol), N-[2-(2-{2,2,2-trifluoroacetamidyl}-3-nitro-phenoxy)-ethyl]-N-benzyl-2,2,2-trifluoro-acetamide (1.0 g, 2.09 mmol) and methyl iodide (2.96 g, 20.9 mmol, previously filtered through basic alumina) in anhydrous dimethylsulfoxide (11 mL) was allowed to stir at room temperature for 24 h. The reaction mixture was poured into methylene chloride (200 mL) and extracted with water (2×80 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent removed under vacuum to afford a yellow thick oil. Purification by chromatography (30% ethyl acetate-hexanes) afforded 960 mg (93.3%) of a light yellow solid, mp 90-92.5° C.; MS m/e EI 493 (M+).

reactant | potassium carbonate | 10.4 mmol, 1.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-[2-(2-{2,2,2-trifluoroacetamidyl}-3-nitro-phenoxy)-ethyl]-N-benzyl-2,2,2-trifluoro-acetamide | 2.09 mmol, 1.0 g | FC(C(=O)NC1=C(OCCN(C(C(F)(F)F)=O)CC2=CC=CC=C2)C=CC=C1[N+](=O)[O-])(F)F | C19H15F6N3O5
reactant | methyl iodide | CI | CH3I
product | N-[2-(1-Methyl-2-{2,2,2-Trifluoroacetamidyl}-3-nitro-phenoxy)-ethyl]-N-benzyl-2,2,2-trifluoro-acetamide | 960 mg, 93.3% | CC1(OCCN(C(C(F)(F)F)=O)CC2=CC=CC=C2)C(C(=CC=C1)[N+](=O)[O-])NC(C(F)(F)F)=O | C20H19F6N3O5
